US06583282B1
1-[3-tert-Butyl-1-p-tolyl-1H-pyrazol-5-yl]-3-(4-{6-[(3-methoxypropyl)methylamino]pyridin-3-yl}naphthalen-1-yl)urea
A solution of 5-(2,2,2-trichloroethoxycarbonyl)amino-3-t-butyl-1-p-tolylpyrazole (26 mmol), 1-amino-4-{6-[(3-methoxypropyl)methylamino]pyridin-3-yl}naphthalene (26 mmol), diisopropylethylamine (25 mmol) and DMSO (75 mL) is heated to 55-90° C. and held for 2-8 h. To this solution, ethyl acetate (100 mL) is added. The organic layer is washed with brine (4×50 mL), and dried over MgSO4. The solvent is removed under reduced pressure, and residue is crystallized from a suitable solvent such as acetonitrile (50 mL) at 0° C. The product is collected by filtration and recrystallized from a suitable solvent such as isopropanol and dried in vacuum to constant weight.

reactant | 5-(2,2,2-trichloroethoxycarbonyl)amino-3-t-butyl-1-p-tolylpyrazole | 26 mmol | ClC(COC(=O)NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C)(Cl)Cl | C17H20Cl3N3O2
reactant | 1-amino-4-{6-[(3-methoxypropyl)methylamino]pyridin-3-yl}naphthalene | 26 mmol | NC1=CC=C(C2=CC=CC=C12)C=1C=NC(=CC1)N(C)CCCOC | C20H23N3O
reactant | diisopropylethylamine | 25 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMSO | 75 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-[3-tert-Butyl-1-p-tolyl-1H-pyrazol-5-yl]-3-(4-{6-[(3-methoxypropyl)methylamino]pyridin-3-yl}naphthalen-1-yl)urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C2=CC=CC=C12)C=1C=NC(=CC1)N(C)CCCOC)C1=CC=C(C=C1)C | C35H40N6O2
